US08471005B2
7-(3-Chloro-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine (126.9 mg, 0.0004350 mol), N,N-Diisopropylethylamine (0.114 mL, 0.000652 mol) and 4-Methanesulfonyl-3-morpholin-4-yl-phenylamine (223 mg, 0.000870 mol) were dissolved in 2-Methoxyethanol (3.05 mL) and The reaction was microwaved on 300 watts, 180° C. for 40 minutes or until HPLC showed consumption of starting material. LC/MS and NMR data showed that the solvent underwent addition to the sulfoxide rather than the aniline. The reaction mixture was then reduced en vacuo and 7.48 mg of 7-(3-Chloro-phenyl)-2-(2-methoxy-ethoxy)-pyrrolo[2,1-f][1,2,4]triazine was isolated and purified by Gilson prep HPLC. The product was then lyophilized to a powder. (M+H)=304.08. 1H NMR (400 MHz, DMSO, d6) δ 9.09 (s, 1H), 8.36 (s, 1H), 8.19 (d, 1H, J=7.88 Hz), 7.55 (t, 1H, J=7.97 Hz), 7.45 (m, 2H), 7.10 (d, 1H, J=4.84 Hz), 4.47 (m, 2H), 3.75 (m, 2H), 3.64 (s, 3H).

reactant | 7-(3-Chloro-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine | 0.0004350 mol, 126.9 mg | ClC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)S(=O)C | C13H10ClN3OS
reactant | N,N-Diisopropylethylamine | 0.000652 mol, 0.114 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-Methanesulfonyl-3-morpholin-4-yl-phenylamine | 0.000870 mol, 223 mg | CS(=O)(=O)C1=C(C=C(C=C1)N)N1CCOCC1 | C11H16N2O3S
reactant | 2-Methoxyethanol | 3.05 mL | COCCO | C3H8O2
product | 7-(3-Chloro-phenyl)-2-(2-methoxy-ethoxy)-pyrrolo[2,1-f][1,2,4]triazine | 7.48 mg | ClC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)OCCOC | C15H14ClN3O2
